US07399812B2
Preparation of 2,2-dimethyl-1-methoxy-3-[(tert-butyidimethylsilyl)oxy]-propane
1 g of 2,2-dimethyl-3-methoxy-1-propanol was admixed with 10 ml of N,N-dimethyl formamide, and 0.29 g of imidazole was added thereto. The mixture was cooled in ice-water bath, and 1.65 ml of triethyl amine was added thereto. After stirring for 5 minutes, 1.65 g of tert-butyldimethylsilyl chloride in 10 ml of N,N-dimethyl formamide was slowly added to the reaction mixture, and the mixture was stirred in ice-water bath for further 4 hours. The reaction mixture was diluted with 10 ml of water, and extracted twice with 20 ml of dichloromethane for each time. The combined dichloromethane extract was dried over anhydrous sodium sulfate. After filtration, the filtrate was evaporated to dryness to give 1.78 g of concentrate of 2,2-dimethyl-1-methoxy-3-[(tert-butyldimethylsilyl)oxy]-propane. The crude product was purified by column chromatography using petroleum ether as eluent, to give colorless pure compound.

reactant | 2,2-dimethyl-3-methoxy-1-propanol | 1 g | CC(CO)(COC)C | C6H14O2
reactant | imidazole | 0.29 g | N1C=NC=C1 | C3H4N2
reactant | triethyl amine | 1.65 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl chloride | 1.65 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | N,N-dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 10 ml | O | H2O
solvent | N,N-dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
product | 2,2-dimethyl-1-methoxy-3-[(tert-butyidimethylsilyl)oxy]-propane | CC(COC)(CO[Si](C)(C)C(C)(C)C)C | C12H28O2Si
